US07951810B2
Step a: (1R,2R,3S,5S)-3-(Hydroxymethyl)-6-oxabicyclo[3.1.0]hexan-2-ol
To a solution of (1S,5S)-5-(hydroxymethyl)cyclopent-2-en-1-ol (3.19 g, 27.9 mmol) (An, G.-I.; Rhee, H. Nucleosides Nucleotides 2002, 21, 65-72) in DCM (143 mL) at 0° C. was added 3-chloroperbenzoic acid (7.52 g, 33.5 mmol) and the mixture was stirred at room temperature for 4 hours. Silica gel (20 g) was added, the mixture was concentrated to dryness and was purified via flash chromatography (0 to 100% EtOAc/DCM) to afford the title compound (2.75 g, 76%).

reactant | (1S,5S)-5-(hydroxymethyl)cyclopent-2-en-1-ol | 27.9 mmol, 3.19 g | OC[C@@H]1CC=C[C@@H]1O | C6H10O2
reactant | 3-chloroperbenzoic acid | 33.5 mmol, 7.52 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 143 mL | C(Cl)Cl | CH2Cl2
product | (1R,2R,3S,5S)-3-(Hydroxymethyl)-6-oxabicyclo[3.1.0]hexan-2-ol | 2.75 g, 76% | OC[C@H]1[C@H]([C@H]2O[C@H]2C1)O | C6H10O3
